US09428528B2
Step 5 Preparation of (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(3-((methylsulfonyloxy)methyl)isoxazol-5-yl)phenyl)oxazolidine-3-carboxylate
A methylene chloride solution (20 ml) of (4S,5R)-tert-butyl 4-(fluoromethyl)-5-(4-(3-(hydroxymethyl)isoxazol-5-yl)phenyl)-2,2-dimethyloxazolidine-3-carboxylate (876 mg, 2.16 mmol) is cooled to 0° C. and methanesulfonyl chloride (250 mg, 2.16 mmol) is added followed by diisopropylethylamine (278 mg, 2.16 mmol). The reaction is stirred for one hour at 0° C. The reaction is diluted with methylene chloride (20 ml) and washed with water (2×10 ml). The organic phase is dried over sodium sulfate and concentrated to give the title compound (987 mg): m/z (CI) 485 ([M+H]+.

reactant | (4S,5R)-tert-butyl 4-(fluoromethyl)-5-(4-(3-(hydroxymethyl)isoxazol-5-yl)phenyl)-2,2-dimethyloxazolidine-3-carboxylate | 2.16 mmol, 876 mg | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)C1=CC(=NO1)CO)(C)C)C(=O)OC(C)(C)C | C21H27FN2O5
reactant | methanesulfonyl chloride | 2.16 mmol, 250 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 2.16 mmol, 278 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(3-((methylsulfonyloxy)methyl)isoxazol-5-yl)phenyl)oxazolidine-3-carboxylate | 987 mg | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)C1=CC(=NO1)COS(=O)(=O)C)(C)C)C(=O)OC(C)(C)C | C22H29FN2O7S
